.SubCkt GR455DR73D103KW01 [_net1] [_net2]
.param K01=9.9998e-09
.param M01=6.0000e+09
.param L02=1.6214e-11
.param M03=4.2714e-02
.param K04=6.0165e-07
.param M04=3.3303e+00
.param K05=9.0732e-07
.param M05=2.5134e-01
.param K06=8.8942e-07
.param M06=5.8770e-02
.param K07=3.5232e-07
.param M07=2.7654e-02
.param L08=9.0647e-11
.param M08=2.3500e-01
.param K09=1.5071e-08
.param L09=7.6947e-11
.param M09=2.2572e-01
.param K10=8.3784e-09
.param L10=4.0590e-11
.param M10=2.1457e-01
.param K11=8.3053e-12
.param L11=4.7616e-10
.param M11=4.4014e+01
.param K12=1.3125e-11
.param L12=1.7316e-10
.param M12=1.1920e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net2 {K12}
L12 _net1112 _net2 {L12}
R12 _net1112 _net2 {M12}
.ends GR455DR73D103KW01
